US07807676B2
Part C: To a solution of tert-butyl 4-(methylthio(pyridin-2-ylimino)methyl)piperazine-1-carboxylate (12.00 g, 36.0 mmol) in DMF (200 mL) at 25° C. was added sodium azide (11.60 g, 178 mmol), followed by mercury(II)chloride (10.90 g, 40.0 mmol), and the resulting mixture was stirred at 25° C. for 19 d. The mixture then was filtered, and the solids were washed with DMF. The combined filtrate was concentrated under vacuum, and the residue was diluted with ethyl acetate. The resulting mixture was filtered again. The filtrate was washed with water (×3) and brine, dried over anhyd. sodium sulfate, filtered, and concentrated. Column chromatography on silica gel (elution: 0-20% diethyl ether/methylene chloride) to afford tert-butyl 4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazine-1-carboxylate (10.10 g) as an off-white solid, following crystallization from a mixture of 1-chlorobutane/hexane; Mass Spec.: m/e: 332.11 (M+H)+ [calc'd: 332.17]; 1HNMR (300 MHz, CDCl3) δ 8.57 (m, 1H), 7.94 (m, 1H), 7.79 (d, 1H, J=8 Hz), 7.40 (m, 1H), 3.52 (m, 4H), 3.34 (m, 4H), 1.43 (s, 9H).

reactant | tert-butyl 4-(methylthio(pyridin-2-ylimino)methyl)piperazine-1-carboxylate | 36.0 mmol, 12.00 g | CSC(N1CCN(CC1)C(=O)OC(C)(C)C)=NC1=NC=CC=C1 | C16H24N4O2S
reactant | sodium azide | 178 mmol, 11.60 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
catalyst | mercury(II)chloride | 40.0 mmol, 10.90 g | [Hg](Cl)Cl
product | tert-butyl 4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazine-1-carboxylate | 10.10 g | N1=C(C=CC=C1)N1N=NN=C1N1CCN(CC1)C(=O)OC(C)(C)C | C15H21N7O2
